US20010016657A1
Methyl 2-methoy-5-cyano-4-iso-propylbenzoate
Copper (I) cyanide (550 mg, 6 mmol) was added to a solution of methyl 2-methoxy-5-bromo-4-isopropylbenzoate (861 mg) in N-methyl-2-pyrrolidinone (30 ml). The mixture was stirred under argon and boiled under reflux for 4 h. The mixture was cooled. poured into excess ice/water and ethyl acetate and filtered. The organic phase was separated, washed with water, brine and dried(MgSO4). Evaporation gave a crude brown solid which was purified by chromatography on silica gel eluting with ethyl acetateln-hexane (1:4). The product was obtained as a white solid (523 mg).

reactant | Copper (I) cyanide | 6 mmol, 550 mg | [Cu]C#N
reactant | methyl 2-methoxy-5-bromo-4-isopropylbenzoate | 861 mg | COC1=C(C(=O)OC)C=C(C(=C1)C(C)C)Br | C12H15BrO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N-methyl-2-pyrrolidinone | 30 ml | CN1C(CCC1)=O | C5H9NO
product | Methyl 2-methoy-5-cyano-4-iso-propylbenzoate | 523 mg | C(=O)C1=C(C(=O)OC)C=C(C(=C1)C(C)C)C#N | C13H13NO3
